US04022794
Step A-4. Preparation of 3(S)-Benzyloxy-1-octanal
Chromium trioxide (6.0 g., 0.06 mole) is added to a mechanically-stirred solution of dry pyridine (9.49 g., 0.12 mole) in methylene chloride (150 ml.) maintained at 0°-5° C. under a nitrogen atmosphere. The resulting reaction mixture is warmed to 25° C., stirred at 25° C. for 1/3 hour, and treated with a solution of 3(S)-benzyloxy-1-octanol (2.37 g., 0.01 mole) in methylene chloride (2 ml.) which initiates precipitation of a black, intractable precipitate. After stirring at 25° C. for 1/4 hour, the solution is decanted, and the insoluble precipitate washed with ether (200 ml.). The combined decantates are washed successively with 5% sodium hydroxide (3 × 100 ml.), 5% hydrochloric acid (100 ml.), and 5% aqueous sodium bicarbonate (100 ml.); dried over magnesium sulfate; and filtered. In vacuo evaporation of the filtrate affords the title compound as a pale yellow oil.

reactant | pyridine | 0.12 mole, 9.49 g | N1=CC=CC=C1 | C5H5N
reactant | 3(S)-benzyloxy-1-octanol | 0.01 mole, 2.37 g | C(C1=CC=CC=C1)O[C@H](CCO)CCCCC | C15H24O2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | Chromium trioxide | 0.06 mole, 6.0 g | [O-2].[O-2].[O-2].[Cr+6]
product | 3(S)-Benzyloxy-1-octanal | C(C1=CC=CC=C1)O[C@H](CC=O)CCCCC | C15H22O2
